US05162571
A mixture of 2,5-dimethoxy-3,6-dimethylbenzaldehyde (5.0 g), malonic acid (3.8 g), pyridine (6 ml) and piperidine (0.3 ml) was refluxed for 25 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water and saturated saline and dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and recrystallized from ethanol to obtain 2,5-dimethoxy-3,6-dimethylcinnamic acid (4.1 g) (Compound A-22). The physical properties and NMR spectrum data thereof are shown in Table 1.

reactant | 2,5-dimethoxy-3,6-dimethylbenzaldehyde | 5.0 g | COC1=C(C=O)C(=C(C=C1C)OC)C | C11H14O3
reactant | malonic acid | 3.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 2,5-dimethoxy-3,6-dimethylcinnamic acid | 4.1 g | COC1=C(C=CC(=O)O)C(=C(C=C1C)OC)C | C13H16O4
